US06855710B2
a) 3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone
4.0 g (13.2 mmol) of 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone are suspended in 50 ml of ethanol and after the addition of 10 ml of 4N sodium hydroxide solution stirred for 90 minutes at ambient temperature. The solution is diluted with 150 ml of water, the crystalline product is suction filtered, washed and dried.

reactant | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone | 13.2 mmol, 4.0 g | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)OCC)=O | C19H17NO3
reactant | sodium hydroxide | 4N, 10 ml | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
product | 3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone | C(C)OC(C1=CC=CC=C1)=C1C(NC2=CC=CC=C12)=O | C17H15NO2
